### PR TITLE
feat(QM): AddZeroClass for UnboundedOperator

### PR DESCRIPTION
**Pull request by gloges**
- Defines zero as the zero map with full domain.
- Defines addition of unbounded operators, using two junk values:
  - When `D(U1) ∩ D(U2)` is not dense, use the zero with full domain.
  - When `D(U1) ∩ D(U2)` is dense but `U1 + U2` is not closable, use the zero map on `D(U1) ∩ D(U2)`.

  This second junk value will be needed so that smul distributes over addition in all cases. It ensures that  `c • (U1 + U2) = c • U1 + c • U2` holds for `(c : ℂ) = 0` when `D(U1) ∩ D(U2)` is dense, since the RHS is the zero map on `D(U1) ∩ D(U2)` regardless of whether `U1 + U2` is closable or not.

- `add_assoc` proves associativity holds when no junk values are encountered

(cf. #957,  #978)

### CODE REVIEW

**Comment by gloges** [comment]
t-quantum-mechanics

**Comment by gloges** [comment]
RFC

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 1]
```diff
@@ -112,18 +115,150 @@ lemma inner_map_polarization' {T : UnboundedOperator H H} (x y : T.domain) :
...
+  zero_add U := by
+    apply UnboundedOperator.ext
+    rw [← zero_add U.toLinearPMap]
+    exact add_toLinearPMap_of_dense_closable (by simp [U.dense_domain]) (by simp [U.is_closable])
+  add_zero U := by
+    apply UnboundedOperator.ext
+    rw [← add_zero U.toLinearPMap]
+    exact add_toLinearPMap_of_dense_closable (by simp [U.dense_domain]) (by simp [U.is_closable])
+
+lemma add_assoc {U₁ U₂ U₃ : UnboundedOperator H H'}
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean:242]: Could we maybe put some comments on these lemmas. For instance, I think this is the statement that if addition does not give a junk value, then it is associative?

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 2]
```diff
@@ -112,18 +115,150 @@ lemma inner_map_polarization' {T : UnboundedOperator H H} (x y : T.domain) :
...
+    (hD : Dense (U₁.domain ⊓ U₂.domain ⊓ U₃.domain : Set H)) (hC₁₂ : (U₁.1 + U₂.1).IsClosable)
+    (hC₂₃ : (U₂.1 + U₃.1).IsClosable) : U₁ + U₂ + U₃ = U₁ + (U₂ + U₃) := by
+  have hD' : Dense (U₁.domain ⊓ (U₂.domain ⊓ U₃.domain) : Set H) := by simp_all [Set.inter_assoc]
+  have hD₁₂ : Dense (U₁.domain ⊓ U₂.domain : Set H) := Dense.mono Set.inter_subset_left hD
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]:
```suggestion
  have hD₁₂ : Dense (U₁.domain ⊓ U₂.domain : Set H) := hD.mono Set.inter_subset_left
```

Comment (jstoobysmith) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: etc.

**Review by jstoobysmith — COMMENTED** [review]
Looks mainly good to me. Couple of comments

**Comment by jstoobysmith** [comment]
awaiting-author

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean (hunk 1 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean:242]: I've added doc strings to the lemmas. See also comment below.

**Comment by gloges** [comment]
I realized that `add_assoc` could be generalized slightly; addition is associative when neither of the intermediate additions `U1 + U2` and `U2 + U3` is a junk value. The hypotheses should now be easier to supply, as they concern the two pairs separately.

**Comment by gloges** [comment]
-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
Approved - many thanks. Will merge shortly
ready-to-merge

**Comment by jstoobysmith** [comment]
ready-to-merge
